US09085581B2
To a solution of (R)-ethyl 2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (54.6 g, 107 mmol) in dioxane (750 mL) and MeOH (75 mL) was added NaOH (aq. 3N, 89.0 mL, 268 mmol). The mixture was stirred at room temperature for 17 h, concentrated in vacuo to approx 150 mL, and acidified with aqueous 3N HCl (300 mL). The resulting slurry was shaken and the solid filtered, washed with H2O (twice), hexanes and dried in a vacuum oven (50° C., 2 Torr, 15 h) to give (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (51.3 g, 101 mmol, 94% yield, >98% ee) as a white solid. Exact mass calculated for C24H23ClF3NO4: 481.1, found: LCMS m/z=482.2, [M+H+]; 1H NMR (400 MHz, CD3CN) δ ppm 1.33 (d, J=6.0 Hz, 6 H), 2.34 (m, 1 H), 2.58 (dd, J1=16.5, J2=9.7 Hz, 1 H), 2.86 (m, 1 H), 3.06 (dd, J1=16.5, J2=4.2 Hz, 1 H), 3.73 (m, 1 H), 4.01 (m, 1 H), 4.14 (ddd, J1=9.9, J2=8.5 Hz, J3=4.9 Hz 1 H), 4.75 (sep, J=6.0 Hz, 1 H), 5.08 (s, 2 H), 6.87 (dd, J1=8.8, J2=2.4 Hz, 1 H), 7.01 (d, J=2.4 Hz, 1 H), 7.18 (d, J=8.6 Hz, 1 H), 7.21 (d, J=8.8 Hz, 1 H), 7.63 (dd, J1=8.6, J2=2.1 Hz, 1 H), 7.68 (d, J=2.1 Hz, 1 H), 9.10 (bs, 1 H).

reactant | (R)-ethyl 2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 107 mmol, 54.6 g | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)OCC | C26H27ClF3NO4
reactant | NaOH | 268 mmol, 3N, 89.0 mL | [OH-].[Na+]
solvent | dioxane | 750 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 75 mL | CO | CH4O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 101 mmol, 51.3 g, 94% yield | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
